US04788121
Next 355 parts of 2,5-dimethyl-8-methoxytetrahydroquinoline in 0.4 l ethanol with 86 parts ethylene oxide was reacted under pressure at 175° C. for 10 hours. The solvent was stripped under reduced pressure to an oil which eventually solidifed to give 97% N-(β-hydroxyethyl)-2,5-dimethyl-8-methoxytetrahydroquinoline.

reactant | 2,5-dimethyl-8-methoxytetrahydroquinoline | CC1NC2=C(C=CC(=C2CC1)C)OC | C12H17NO
reactant | ethylene oxide | C1CO1 | C2H4O
solvent | ethanol | 0.4 l | C(C)O | C2H6O
product | N-(β-hydroxyethyl)-2,5-dimethyl-8-methoxytetrahydroquinoline | 97% | OCCN1C(CCC2C(C=CC(=C12)OC)C)C | C14H23NO2
